US08283361B2
A solution of 2-fluoro-4-iodoaniline (15 g, 63.29 mmol) and diethyl ethoxymethylene malonate (41.05 g, 0.19 mol) in toluene (75 mL) was heated to reflux with a Dean-Stark condenser for 7 h. The mixture was cooled, concentrated and washed with methyl tert-butyl ether (500 ml). The methyl tert-butyl ether layer was then concentrated and the residue was washed with heptane (500 ml), yielding a white solid that precipitated out of the yellow solution. This solid was then collected, yielding 23.6 g (91%) of diethyl 2-((2-fluoro-4-iodophenylamino)methylene)malonate.

reactant | 2-fluoro-4-iodoaniline | 63.29 mmol, 15 g | FC1=C(N)C=CC(=C1)I | C6H5FIN
reactant | diethyl ethoxymethylene malonate | 0.19 mol, 41.05 g | CCOC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
product | diethyl 2-((2-fluoro-4-iodophenylamino)methylene)malonate | 23.6 g, 91% | FC1=C(C=CC(=C1)I)NC=C(C(=O)OCC)C(=O)OCC | C14H15FINO4
